US05703050
b) 3-((3-(4-(Aminoiminomethyl)phenyl)ureido)acetylamino)-3-phenylpropionic acid
0.38 g (0.66 mmol) of benzyl 3-((3-(4-(tert-butyloxycarbonylaminoiminomethyl)phenyl)ureido)acetylamino)-3-phenylpropionate is dissolved in 30 ml of DMF and treated with 0.07 g of Pd/C (10%). Hydrogen is then passed through for 24 h, solid is filtered off, the filtrate is concentrated in vacuo and the residue is treated with 1.53ml of trifluoroacetic acid (99%) and 0.15 ml of water. After stirring at room temperature for 48 h, the mixture is concentrated in vacuo and the residue is chromatographed on Sephadex (LH-20).

reactant | benzyl 3-((3-(4-(tert-butyloxycarbonylaminoiminomethyl)phenyl)ureido)acetylamino)-3-phenylpropionate | 0.66 mmol, 0.38 g | C(C)(C)(C)OC(=O)NN=CC1=CC=C(C=C1)NC(NCC(=O)NC(CC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C31H35N5O6
reactant | Hydrogen | [H][H] | H2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | 0.07 g | [Pd] | Pd
product | 3-((3-(4-(Aminoiminomethyl)phenyl)ureido)acetylamino)-3-phenylpropionic acid | NN=CC1=CC=C(C=C1)NC(NCC(=O)NC(CC(=O)O)C1=CC=CC=C1)=O | C19H21N5O4
